US08183388B2
((S)-7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester
The following reagents are stirred together in DMF (250 mL) at 100° C. for 18 h: ((S)-7-bromo-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester (50.0 g, 142 mmol), zinc cyanide (11.9 g, 99.7 mmol), zinc acetate (5.22 g, 28.5 mmol), 1,1′-bis(diphenylphosphino)ferrocene) palladium (II) chloride (Pd(dppf)2Cl2) (1.74 g, 2.14 mmol), and zinc (3.72 g, 56.9 mmol). The reaction is concentrated to dryness and partitioned between water and ethyl acetate. The organics are washed with water and brine, then concentrated to afford a solid. The solid is chromatographed in two equal portions on silica gel (1600 mL) as follows: load as a solution in CH2Cl2 and elute with 2% EtOAc in CH2Cl2 (3 L), then 5% EtOAc in CH2Cl2. The product is recovered from the two columns to give 29 g (69%) of the title compound as a white solid. 1H-NMR (400 MHz, CDCl3) δ 8.39 (s, 1H), 7.74 (s, 1H), 7.34 (d, J=1.8 Hz, 2H), 5.05-4.96 (m, 2H), 3.37-3.25 (m, 2H), 2.80-2.63 (m, 2H), 1.46 (s, 9H).

reactant | ((S)-7-bromo-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester | 142 mmol, 50.0 g | C(C)(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)Br)C1)=O | C16H19BrN2O2
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 99.7 mmol, 11.9 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc acetate | 28.5 mmol, 5.22 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) chloride | 2.14 mmol, 1.74 g | [Pd](Cl)Cl
catalyst | zinc | 56.9 mmol, 3.72 g | [Zn] | Zn
product | ((S)-7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester | 29 g, 69% | C(C)(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C17H19N3O2
